US08242133B2
A mixture of 0.28 g of 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole, 0.27 g of potassium carbonate and 3 ml of 2-methoxyethanol was stirred while heating at 80° C. for 2.5 hours. The reaction mixture was cooled to room temperature, and then water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.23 g of 2-[3-(2-methoxyethoxy)pyridin-4-yl]-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 120”).

reactant | 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.28 g | FC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F4N2O
reactant | potassium carbonate | 0.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methoxyethanol | 3 ml | COCCO | C3H8O2
solvent | water | O | H2O
product | 2-[3-(2-methoxyethoxy)pyridin-4-yl]-5-(trifluoromethyl)benzoxazole | 0.23 g | COCCOC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C16H13F3N2O3
